US08114868B2
A 250-mL flask was charged with anhydrous CeCl3 (5.58 g, 22.6 mmol) and THF (40 mL). The mixture was vigorously stirred for 3.5 h at rt. The suspension was then cooled to −78° C. and a solution of allylmagnesium bromide (1.0 M in THF, 21 mL, 21.0 mmol) was added. After stirring for 2 h at −78° C., a solution of 3-chloro-1-(4-fluorophenyl)propan-1-one (2.522 g, 13.5 mmol) in THF (30 mL) was added via cannula. The reaction mixture was allowed to slowly warm to 8° C. while stirring overnight (18 h). The reaction was then quenched with satd aq NaHCO3, extracted with EtOAc, and dried over Na2SO4. After the solvents were evaporated, the residue was purified by chromatography on silica gel eluted with hexanes/EtOAc to afford of 1-chloro-3-(4-fluorophenyl)hex-5-en-3-ol (3.0049 g, 97%) as an oil. LC-MS Method 1 tR=1.79 min, m/z 213, 211 (M-OH)+; 1H NMR (400 MHz, CDCl3) δ 7.37-7.32 (m, 2H), 7.07-7.02 (m, 2H), 5.57-5.47 (m, 1H), 5.20-5.19 (m, 1H), 5.16 (m, 1H), 3.59-3.52 (m, 1H), 3.24-3.18 (m, 1H), 2.70 (dd, J=13.8, 5.9 Hz, 1H), 2.50 (dd, J=13.8, 8.5 Hz, 1H), 2.29 (t, J=7.9 Hz, 2H), 2.22 (s, 1H); 19F NMR (376 MHz, CDCl3) δ−116.52 (m).

reactant | allylmagnesium bromide | 21.0 mmol, 1.0 M, 21 mL | C(C=C)[Mg]Br
reactant | 3-chloro-1-(4-fluorophenyl)propan-1-one | 13.5 mmol, 2.522 g | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-chloro-3-(4-fluorophenyl)hex-5-en-3-ol | 3.0049 g, 97% | ClCCC(CC=C)(O)C1=CC=C(C=C1)F | C12H14ClFO
